* C:\Users\ravet\OneDrive\Dokumente\GitHub\Funkhaus-EQ\w295b.asc
V1 V+ 0 12
V2 V- 0 -12
R21 N042 N013 750
R22 N031 N042 2530
R23 N044 N043 1
R24 N032 N045 750
C6 N024 N031 10n
R25 N008 N024 3k3
R26 N007 N013 1k3
R27 N032 N009 1k3
C11 N008 N007 470n
C12 N009 N008 470n
R28 N008 N007 5k
R29 N009 N008 5k
V5 N012 0 SINE(0 1 1000 0 0 0 1000) AC 1
R8 N043 N031 1
C8 N043 0 150µ
C4 N019 N013 22µ
V3 24V 0 24
Q3 N020 N030 N037 0 NPN
Q7 24V N015 N010 0 NPN
R5 N037 N036 12k
R12 N010 N020 200k
R19 N037 0 39k
R30 N030 0 3k3
R31 N026 N030 {TR2a}
R32 N038 N026 {TR2b}
R33 N039 N038 2k4
R34 N027 N039 {TR3}
C10 N027 N026 22µ
Q4 N010 N020 N029 0 NPN
Q5 N018 N029 N027 0 NPN
Q6 N027 N017 N048 0 NPN
R35 N029 0 51k
R36 N010 N018 20
R37 N018 N017 12k
C13 N018 N017 10µ
R38 N017 0 820
R39 N048 0 10
R40 24V N015 1k
C14 N015 0 22µ
R41 N036 N050 510k
R42 N050 N030 510k
R43 N036 N035 1k3
C15 N035 N034 33µ
C16 0 N034 10n
R44 N034 0 620
R45 N052 N030 {G}
C17 N053 N052 {C}
L1 N051 N053 {L}
C3 N033 N032 100µ
C1 N025 N024 4µ7
Q1 N014 N025 N041 0 NPN
Q2 N005 N014 N023 0 NPN
Q8 N011 N023 N032 0 NPN
Q9 N032 N016 N047 0 NPN
R1 N025 N049 6k2
C2 N014 N025 56p
R2 N032 N049 3k9
C5 N049 0 56µ
R3 N049 0 {TR1}
R4 N041 N046 100
R6 N046 0 2k
C7 N046 0 56µ
R7 N005 N014 68k
C9 N005 0 25µ
R9 24V N005 100
R10 N047 0 22
R11 N016 0 820
C18 N011 N016 4µ7
R13 N011 N016 20k
R14 24V N011 51
Q10 N001 N003 N006 0 NPN
Q11 N002 N006 N019 0 NPN
Q12 N019 N004 N028 0 NPN
R16 N028 0 30
R17 N004 0 820
C21 N002 N004 4µ7
R18 N002 N004 16k
R20 N001 N002 30
C19 N001 0 50µ
R46 24V N001 30
R15 N001 N003 10k
R47 N003 0 12k
C20 N003 N012 4µ7
C22 N040 N027 4µ7
XU1 0 N021 V+ V- N022 ADTL082
R48 N021 N040 10k
R49 N022 N021 10k
R50 siemens N022 100
R51 N077 N059 750
R52 N073 N077 2k5
R53 N079 N078 1
R54 N060 N080 750
C23 N067 N073 10n
R55 N057 N067 3k3
R56 N056 N059 1k3
R57 N058 N060 1k3
C24 N057 N056 470n
C25 N058 N057 470n
R58 N057 N056 5k
R59 N058 N057 5k
R60 N078 N073 1
C26 N078 0 150µ
XU2 0 N067 V+ V- N060 ADTL082
XU4 N068 N059 V+ V- N059 ADTL082
C27 N068 N012 2µ2
R61 N068 0 10k
R62 N069 N066 {VR1} tol=1 pwr=0.25
R63 N071 N069 {VR2} tol=1 pwr=0.25
R64 N070 N071 1k6
C30 N070 N071 100p
C31 N066 0 100p
R67 N066 N055 1k6
XU3 N066 N071 V+ V- N070 ADTL082
C32 N060 N067 220p
C33 N022 N021 22p
XU5 0 N064 V+ V- N065 ADTL082
R68 N064 N072 10k
R69 N065 N064 10k
R70 SIAM N065 100
R71 N080 N079 2k5
R72 N045 N044 2530
R73 0 N051 1
R76 N069 N074 {Q}
L2 N033 N034 6m
XU7 N061 N062 V+ V- N062 ADTL082
XU8 N063 N055 V+ V- N055 ADTL082
R74 N061 N060 3k
C35 N061 0 2n2
R75 N054 N062 3k3
R77 N063 N054 27k
C36 N063 0 220p
C37 N055 N054 2n2
C34 N065 N064 22p
C38 N072 N070 22µ
XU9 N081 N076 V+ V- N076 ADTL082
C39 N074 N075 {C1}
R78 N076 N075 1k
C40 N075 N081 {C2}
R79 N081 0 {R2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ravet\AppData\Local\LTspice\lib\cmp\standard.bjt
;ac dec 100 10 24k
* Inductance\n0,7 kHz = 235mH\n1,0 kHz = 170mH\n1.5 kHz = 110mH\n2.3 kHz = 80mH\n3.5 kHz = 50mH\n5.6 kHz = 30mH
.param TR1=440 TR2a=1580 TR2b=3320 TR3=3840
* Capacitance\n0,7 kHz = 220nF\n1,0 kHz = 150nF\n1.5 kHz = 100nF\n2.3 kHz = 60nF\n3.5 kHz = 39nF\n5.6 kHz = 27nF
* Gain\n+2dB = 3k7\n+4dB = 1k6\n+6dB = 910\n+8dB = 570\n \n-2dB = 4k9\n-4dB = 2k1\n-6dB = 1k3\n-8dB = 830
;step param G list 3k7 1k6 910 570
;step param G list 4k9 2k1 1k3 830
* 1.1V
* DC offset
* DC Bias point
* Q-Mod\n8db = 1\n6db = 500R\n4db = 1k5\n2db = 4k7
* Ideal Capacitance\n0,7 kHz = 133n / 3n9\n1,0 kHz = 93n / 2n7\n1.5 kHz = 62n / 1n8\n2.3 kHz = 41n / 1n2\n3.5 kHz = 27n / 770p\n5.6 kHz = 17n / 480p
.param G=570
.param C=60n L=80m C1=43n C2=1n R2=110k
* Rounded Values\n0,7 kHz = 133n / 3n3 / 118k\n1,0 kHz = 100n / 2n2 / 115k\n1.5 kHz = 68n / 1n5 / 110k\n2.3 kHz = 43n / 1n / 111k\n3.5 kHz = 25n / 680p / 120k\n5.6 kHz = 15n / 470p / 115k
.param VR1=10k VR2=1
.param Q=1
.ac dec 101 200 20k
;noise V(SIAM) V3 oct 24 10 24k
.lib ADI.lib
.backanno
.end
