*****
* download the TL072 PSpice Model from TI: https://www.ti.com/product/TL072#design-tools-simulation
* and extract the TL072.301 to the same folder as this TL07x.lib file
*****
*TL074
.subckt TL074 1out 1in- 1in+ vcc+ 2in+ 2in- 2out 3out 3in- 3in+ vcc- 4in+ 4in- 4out
.include TL072.301
XU1A 1in+ 1in- vcc+ vcc- 1out TL072
XU1B 2in+ 2in- vcc+ vcc- 2out TL072
XU1C 3in+ 3in- vcc+ vcc- 3out TL072
XU1D 4in+ 4in- vcc+ vcc- 4out TL072
.ends
*TL072
.subckt TL072c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include TL072.301
XU1A 1in+ 1in- vcc+ vcc- 1out TL072
XU1B 2in+ 2in- vcc+ vcc- 2out TL072
.ends
